US07037909B2
5-(4-Fluoro-benzyl)-[1,3,4]oxadiazol-2-ylamine
Solid BrCN 13.37 g (130 mmol, 1.1 eq.) was added in one portion into ice-cooled slurry of (4-Fluoro-phenyl)-acetic acid hydrazide (19.85 g, 118 mmol) and KHCO3 14.77 g (147.5 mmol, 1.25 eq.) in MeOH (150 mL) in a 1L flask. (Followed by MeOH 10 mL to wash the funnel). The mixture was stirred on ice bath at 0-5° C. for 2 hours in a loose-capped flask, then the bath allowed to melt gradually and then the mixture was stirred at 5 to 20° C. overnight (17 hrs). The reaction mixture was diluted with water (200 mL), stirred for 1 hour in an open flask, then cooled on ice bath. The precipitate was collected by filtration, washed with water and dried on highvac. [1st fraction]The supernatants were concentrated on rotavap form warm (40° C.) water bath to remove all MeOH and some water. The obtained slurry was cooled to room temperature, the precipitate was collected by filtration, washed with water and dried on highvac. [2nd fraction]. Combined yield: 20.836 g (91.5%) of a white crystalline solid.

reactant | BrCN | 130 mmol, 13.37 g, 1.1 eq. | BrC#N | CBrN
reactant | (4-Fluoro-phenyl)-acetic acid hydrazide | 118 mmol, 19.85 g | FC1=CC=C(C=C1)CC(=O)NN | C8H9FN2O
solvent | MeOH | 150 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
product | 5-(4-Fluoro-benzyl)-[1,3,4]oxadiazol-2-ylamine | FC1=CC=C(CC2=NN=C(O2)N)C=C1 | C9H8FN3O
